US06890940B2
N-t-butoxycarbonyl-3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)aniline (1.10 g, 3.13 mmol) was added to a 10% solution of hydrogen chloride in methanol (20 mL, 55 mmol), and the resulting solution was stirred at 50° C. for 30 minutes. The reaction mixture was concentrated under reduced pressure to give crude 3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)aniline hydrochloride.

reactant | N-t-butoxycarbonyl-3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)aniline | 3.13 mmol, 1.10 g | C(C)(C)(C)OC(=O)NC1=CC(=C(C(=C1)OC)OCC(F)(F)F)OC | C15H20F3NO5
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 55 mmol, 20 mL | CO | CH4O
product | 3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)aniline hydrochloride | Cl.COC=1C=C(N)C=C(C1OCC(F)(F)F)OC | InChI=1S/C10H12F3NO3.ClH/c1-15-7-3-6(14)4-8(16-2)9(7)17-5-10(11,12)13;/h3-4H,5,14H2,1-2H3;1H
